### PR TITLE
feat: add `BitVec.(toFin_signExtend_of_le, toFin_signExtend)`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR introduces `BitVec.(toFin_signExtend_of_le, toFin_signExtend)`, completing the API for `BitVec.signExtend`.

Co-authored by @bollu.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3095,7 +3118,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3121]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -940,7 +940,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:943]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2402,6 +2408,23 @@ theorem toInt_signExtend_eq_toInt_bmod_of_le (x : BitVec w) (h : v ≤ w) :
...
   rw [BitVec.toInt_signExtend, Nat.min_eq_left h]
 
+theorem toFin_signExtend_of_le {x : BitVec w} (hv : v ≤ w):
+    (x.signExtend v).toFin = Fin.ofNat' (2 ^ v) x.toNat := by
+  simp [signExtend_eq_setWidth_of_le _ hv]
+
+theorem toFin_signExtend (x : BitVec w) :
+    (x.signExtend v).toFin = Fin.ofNat' (2 ^ v) (x.toNat + if x.msb = true then 2 ^ v - 2 ^ w else 0):= by
+  by_cases hv : v ≤ w
+  · simp [toInt_signExtend_of_le hv, Nat.min_eq_left hv]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:2418]:
```suggestion
  · simp [toFin_signExtend_of_le hv, show 2 ^ v - 2 ^ w = 0 by rw [@Nat.sub_eq_zero_iff_le]; apply Nat.pow_le_pow_of_le (by decide) (by omega)]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2402,6 +2408,23 @@ theorem toInt_signExtend_eq_toInt_bmod_of_le (x : BitVec w) (h : v ≤ w) :
...
+  · simp [toFin_signExtend_of_le hv, show 2 ^ v - 2 ^ w = 0 by rw [@Nat.sub_eq_zero_iff_le]; apply Nat.pow_le_pow_of_le (by decide) (by omega)]
+  · simp only [Nat.not_le] at hv
+    apply Fin.eq_of_val_eq
+    simp only [val_toFin, Fin.val_ofNat']
+    rw [toNat_signExtend_of_le _ (by omega)]
+    have : 2 ^ w < 2 ^ v := by apply Nat.pow_lt_pow_of_lt <;> omega
+    rw [Nat.mod_eq_of_lt]
+    rcases x.msb <;> simp <;> omega
+
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2427]:
```suggestion

```

**Review by tobiasgrosser — APPROVED** [review]
This LGTM. Let's get this in. Thank you, @luisacicolini!

**Review by bollu — APPROVED** [review]
LGTM, modulo the comment by @tobiasgrosser to delete the extra whitespace.

**Comment by luisacicolini** [comment]
awaiting-review

**Review by hargoniX — CHANGES_REQUESTED** [review]

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2358,6 +2358,12 @@ theorem toNat_signExtend (x : BitVec w) {v : Nat} :
   · have : 2^w ≤ 2^v := Nat.pow_le_pow_right Nat.two_pos (by omega)
     rw [toNat_signExtend_of_le x (by omega), toNat_setWidth, Nat.mod_eq_of_lt (by omega)]
 
+/-- Sign extending to a smaller bitwidth equals setting the width. -/
+theorem toNat_signExtend_of_lt {x : BitVec w} {v : Nat} (h : v < w) :
+    (x.signExtend v).toNat = (x.setWidth v).toNat := by
+  rw [toNat_signExtend, show 2 ^ v - 2 ^ w = 0 by rw [@Nat.sub_eq_zero_iff_le]; apply Nat.pow_le_pow_of_le (by decide) (by omega)]
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2364]: thank you! `BitVec.toNat_signExtend_of_le` exists already, so I just removed this theorem.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -943,7 +943,7 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
 @[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
-    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:946]:
```suggestion
    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -3131,7 +3147,7 @@ theorem toInt_sub_toInt_lt_twoPow_iff {x y : BitVec w} :
       omega
 
 theorem twoPow_le_toInt_sub_toInt_iff {x y : BitVec w} :
-    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
+    (2 ^ (w - 1) ≤ x.toInt - y.toInt)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3150]:
```suggestion
    (2 ^ (w - 1) ≤ x.toInt - y.toInt) 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -2357,7 +2357,6 @@ theorem toNat_signExtend (x : BitVec w) {v : Nat} :
     simp [signExtend_eq_setWidth_of_le x h, toNat_setWidth, Nat.sub_eq_zero_of_le this]
   · have : 2^w ≤ 2^v := Nat.pow_le_pow_right Nat.two_pos (by omega)
     rw [toNat_signExtend_of_le x (by omega), toNat_setWidth, Nat.mod_eq_of_lt (by omega)]
-
 /--
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:2360]:
```suggestion

/--
```
